US05223536
A stirred solution of 11.0 grams (0.053 mole) of 1-cyclopropyl-1-(4-chlorophenyl)-2-propen-1-ol and 4.6 grams (0.058 mole) of pyridine in 100 ml of diethyl ether was cooled to 0°C., and 6.8 grams (0.058 mole) of thionyl chloride was added dropwise during a 10 minute period. Upon completion of addition, the reaction mixture was stirred for 30 minutes and then was taken up in 100 ml of hexane; 50 ml of water was then carefully added. The aqueous layer was separated and was extracted with hexane. The organic layers were combined and washed with 25 ml of water and then with 25 ml of an aqueous solution saturated with sodium chloride. The organic layer was dried with magnesium sulfate and filtered. The filtrate was concentrated under reduced pressure, yielding 8.6 grams of 1-cyclopropyl-1-(4-chlorophenyl)-3-chloro-1-propene.

reactant | 1-cyclopropyl-1-(4-chlorophenyl)-2-propen-1-ol | 0.053 mole, 11.0 grams | C1(CC1)C(C=C)(O)C1=CC=C(C=C1)Cl | C12H13ClO
reactant | pyridine | 0.058 mole, 4.6 grams | N1=CC=CC=C1 | C5H5N
reactant | thionyl chloride | 0.058 mole, 6.8 grams | S(=O)(Cl)Cl | Cl2OS
reactant | water | 50 ml | O | H2O
solvent | diethyl ether | 100 ml | C(C)OCC | C4H10O
solvent | hexane | 100 ml | CCCCCC | C6H14
product | 1-cyclopropyl-1-(4-chlorophenyl)-3-chloro-1-propene | 8.6 grams | C1(CC1)C(=CCCl)C1=CC=C(C=C1)Cl | C12H12Cl2
